US08217069B2
A mixture of 4,6-dichloro-2-methyl-5-nitropyrimidine (3.12 g), tributyl(1-ethoxy-vinyl)tin (5.3 mL) and dichlorobis(triphenylphosphine)palladium(II) (0.53 g) in tetrahydrofuran (60 mL) was stirred at 85° C. under an argon atmosphere in a reaction vessel equipped with a reflux condenser for 4 hours. The reaction mixture was cooled to room temperature. To the mixture was added 0.5 mol/L aqueous potassium fluoride solution (20 mL), and the resulting mixture was stirred at room temperature for 1 hour. The insoluble material was removed by filtration, and the insoluble material was washed with ethyl acetate. The filtrate and washing were combined, and the organic layer was separated. The organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=20/1−4/1). The product was dissolved in ethyl acetate. To the solution were added 0.5 mol/L aqueous potassium fluoride solution (20 mL) and water (20 mL), and the mixture was stirred at room temperature for 30 minutes. The insoluble material was removed by filtration, and the filtrate was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give 4-chloro-6-(1-ethoxyvinyl)-2-methyl-5-nitropyrimidine (3.65 g). This material was dissolved in acetone (30 mL). To the solution was added p-toluenesulfonic acid monohydrate (2.28 g), and the mixture was heated at reflux for 4 hours. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=20/1−4/1) to give the title compound (2.32 g).

reactant | 4,6-dichloro-2-methyl-5-nitropyrimidine | 3.12 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)C | C5H3Cl2N3O2
reactant | tributyl(1-ethoxy-vinyl)tin | 5.3 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | potassium fluoride | 0.5 mol/L, 20 mL | [F-].[K+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.53 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-6-(1-ethoxyvinyl)-2-methyl-5-nitropyrimidine | 3.65 g | ClC1=NC(=NC(=C1[N+](=O)[O-])C(=C)OCC)C | C9H10ClN3O3
